US08563686B2
Synthesis of Boc-Ala-Ala-NH—(CH2)4—N(Ns)-Ala-OMe
To a cold (−15° C.) vigorously stirring solution of Ns-Ala-OMe (50 mg, 0.17 mmol), Boc-Ala-Ala-NH—(CH2)4—OH (57 mg, 0.17 mmol) and PPh3 (68 mg, 0.26 mmol) in dry THF (1.5 mL) was added DIAD (53 mg, 0.26 mmol) slowly dropwise. After 7 h another portion of PPh3 (68 mg, 0.26 mmol) and DIAD (52 mg, 0.26 mmol) was added and stirred for further 10 h, when TLC (MeOH:DCM) indicated complete consumption of the starting material. The mixture was concentrated under vacuum and the resulting residue was diluted with EtOAc (15 mL), washed with water (2 mL), dried over Na2SO4 and concentrated under vacuum to give a crude residue which was purified by silica gel flash column chromatography (EtOAc:Hexanes—3:1) to give the desired product as a viscous oil in good yields (71 mg, 76%). TLC (MeOH:DCM—1:9—Rf=0.5).

reactant | Ns-Ala-OMe | 0.17 mmol, 50 mg | N([C@@H](C)C(=O)OC)S(=O)(=O)C1=CC=C([N+](=O)[O-])C=C1 | C10H12N2O6S
reactant | Boc-Ala-Ala-NH—(CH2)4—OH | 0.17 mmol, 57 mg | N([C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCCO)C(=O)OC(C)(C)C | C15H29N3O5
reactant | PPh3 | 0.26 mmol, 68 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.26 mmol, 53 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | PPh3 | 0.26 mmol, 68 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.26 mmol, 52 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | Boc-Ala-Ala-NH—(CH2)4—N(Ns)-Ala-OMe | N([C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCCN([C@@H](C)C(=O)OC)S(=O)(=O)C1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C | C25H39N5O10S
